### PR TITLE
rt refine: 5 sorries in `Syscall_R`

### PR DESCRIPTION
**Pull request by MitchellBuckley**
Solved 5 smallish sorries in `Syscall_R`

### CODE REVIEW

File: proof/refine/ARM/Syscall_R.thy [hunk 1]
```diff
@@ -920,22 +928,36 @@ lemma threadSet_not_curthread_ct_domain:
   apply clarsimp
   done
 
+lemma tcbSchedDequeue_not_in_queue:
+  "\<And>p. \<lbrace>Invariants_H.valid_queues and tcb_at' t and valid_objs'\<rbrace> tcbSchedDequeue t
+   \<lbrace>\<lambda>rv s. t \<notin> set (ksReadyQueues s p)\<rbrace>"
+  apply (rule_tac Q="\<lambda>rv. Invariants_H.valid_queues and obj_at' (Not \<circ> tcbQueued) t"
+               in hoare_post_imp)
+   apply (fastforce simp: valid_queues_def valid_queues_no_bitmap_def obj_at'_def projectKOs inQ_def )
```
Comment (michaelmcinerney) [inline proof/refine/ARM/Syscall_R.thy:936]: Extra space at the end of the line

File: proof/refine/ARM/Syscall_R.thy [hunk 2]
```diff
@@ -945,12 +967,13 @@ lemma setDomain_invs':
                threadSet_tcbDomain_update_ct_not_inQ | simp)+
     apply (rule_tac Q = "\<lambda>r s. invs' s \<and> curThread = ksCurThread s \<and> sch_act_simple s
                              \<and> domain \<le> maxDomain
-                             \<and> (ptr \<noteq> curThread \<longrightarrow> ct_not_inQ s \<and> sch_act_not ptr s)"
+                             \<and> (ptr \<noteq> curThread \<longrightarrow> ct_not_inQ s)
+                             \<and> (\<forall>a b. ptr \<notin> set (ksReadyQueues s (a, b)))"
```
Comment (michaelmcinerney) [inline proof/refine/ARM/Syscall_R.thy:971]: Maybe `(d, p)` would be nicer variable names?

File: proof/refine/ARM/Syscall_R.thy [hunk 3]
```diff
@@ -1156,98 +1179,121 @@ crunch valid_duplicates'[wp]: rescheduleRequired "\<lambda>s. vs_valid_duplicate
...
+        apply (rule syscall_corres)
+                apply (rule hinv_corres_assist, simp)
+               apply (rule corres_when[OF _ hf_corres]; simp)
+              apply (simp only: split_def)
+              apply (rule corres_split_deprecated [OF _ get_mrs_corres])
+                 apply (rule decode_invocation_corres; simp)
                   apply (fastforce simp: list_all2_map2 list_all2_map1 elim:  list_all2_mono)
-                 apply wp[1]
-                apply (drule sym[OF conjunct1])
+                 apply (fastforce simp: list_all2_map2 list_all2_map1 elim:  list_all2_mono)
```
Comment (michaelmcinerney) [inline proof/refine/ARM/Syscall_R.thy:1216]: Extra space after `elim:`

File: proof/refine/ARM/Syscall_R.thy [hunk 4]
```diff
@@ -1156,98 +1179,121 @@ crunch valid_duplicates'[wp]: rescheduleRequired "\<lambda>s. vs_valid_duplicate
...
+   apply (clarsimp simp: ct_in_state'_def cong: conj_cong)
+   apply (frule pred_tcb'_weakenE [where P=active' and P'=simple'], clarsimp)
+   apply (frule(1) st_tcb_ex_cap'', fastforce)
+   apply (clarsimp simp: valid_pspace'_def schact_is_rct_def)
+   apply (frule state_relation_schact, simp)
+   apply (subgoal_tac "isSchedulable_bool (ksCurThread s') s'")
+    apply (clarsimp simp: isSchedulable_bool_def pred_map_conj)
+    apply (frule(1) st_tcb_at_idle_thread', simp)
+   apply (frule curthread_relation, simp)
+   apply (frule_tac t1="cur_thread s" in cross_relF[OF _ isSchedulable_bool_cross_rel];
```
Comment (michaelmcinerney) [inline proof/refine/ARM/Syscall_R.thy:1293]: Maybe some of these subgoals here and above can be done with a `fastforce` instead? I've got no real preference, though

File: proof/refine/ARM/Syscall_R.thy [hunk 5]
```diff
@@ -1314,14 +1360,31 @@ lemma hinv_invs'[wp]:
                         dest: st_tcb_at_idle_thread')+
   done
 
+lemma getCapReg_corres:
+  "corres (\<lambda>x y. x = to_bl y) ct_active ct_active'
+          (get_cap_reg cap_register) (getCapReg ARM_H.capRegister)"
+  apply (simp add: get_cap_reg_def getCapReg_def cap_register_def capRegister_def)
```
Comment (michaelmcinerney) [inline proof/refine/ARM/Syscall_R.thy:1366]: Just another curisoity, but I wonder what `corressimp` could do with this one. Maybe one line it?

File: proof/refine/Move_R.thy [hunk 6]
```diff
@@ -457,4 +457,22 @@ lemma bind_dummy_ret_val:
    od = do a; b od"
   by simp
 
+(* FIXME RT: move to lib *)
+lemma hoare_case_option_wp2:
```
Comment (michaelmcinerney) [inline proof/refine/Move_R.thy:461]: Nice! Move it!

**Review by michaelmcinerney — APPROVED** [review]
Excellent

File: proof/refine/ARM/Syscall_R.thy (hunk 5 above)
Comment (MitchellBuckley) [reply proof/refine/ARM/Syscall_R.thy:1366]: Nearly! There are a few missing lemmas and so it gets stuck.

File: proof/refine/ARM/KHeap_R.thy [hunk 7]
```diff
@@ -4177,4 +4177,10 @@ lemma sym_heap_remove_only:
   apply (subst (asm) sym_heap_symmetric[simplified sym_heap_def], simp)
   done
 
+lemma pred_tcb_at'_pred_map:
+  "pred_tcb_at' p P t s = (tcb_at' t s \<and> pred_map (\<lambda>x. P (p (tcb_to_itcb' x))) (tcbs_of' s) t)"
```
Comment (mktnk3) [inline proof/refine/ARM/KHeap_R.thy:4181]: Gerenally speaking, I think we can do without `pred_map` here. Something like`tcb_at' t s \<and> P ((tcbs_of’ s |> p o tcb_to_itcb) t)` for RHS should work.

File: proof/refine/ARM/Syscall_R.thy [hunk 8]
```diff
@@ -920,22 +928,36 @@ lemma threadSet_not_curthread_ct_domain:
   apply clarsimp
   done
 
+lemma tcbSchedDequeue_not_in_queue:
+  "\<And>p. \<lbrace>Invariants_H.valid_queues and tcb_at' t and valid_objs'\<rbrace> tcbSchedDequeue t
+   \<lbrace>\<lambda>rv s. t \<notin> set (ksReadyQueues s p)\<rbrace>"
```
Comment (mktnk3) [inline proof/refine/ARM/Syscall_R.thy:933]: Do we need `tcb_at’ t` and `valid_objs’` here?

**Review by mktnk3 — APPROVED** [review]
Nice! Just a couple of comments from me, otherwise looks good to me :)

**Comment by mktnk3** [comment]
Hmm.. It looks like the Refine test is failing. Can you look into that, maybe when you rebase?

**Comment by MitchellBuckley** [comment]
> Hmm.. It looks like the Refine test is failing. Can you look into that, maybe when you rebase?

The failure seems spurious, everything passes on my end. Hopefully it will go away with a retest.

File: proof/refine/ARM/KHeap_R.thy (hunk 7 above)
Comment (MitchellBuckley) [reply proof/refine/ARM/KHeap_R.thy:4181]: Will change it.

File: proof/refine/ARM/Syscall_R.thy (hunk 8 above)
Comment (MitchellBuckley) [reply proof/refine/ARM/Syscall_R.thy:933]: I cut and paste from an old proof, will optimise it now.

File: proof/refine/ARM/Syscall_R.thy [hunk 9]
```diff
@@ -552,33 +552,42 @@ lemma sts_mcpriority_tcb_at'[wp]:
...
 
 lemma sts_valid_inv'[wp]:
-  "\<lbrace>valid_invocation' i\<rbrace> setThreadState st t \<lbrace>\<lambda>rv. valid_invocation' i\<rbrace>"
-  apply (case_tac i, simp_all add: sts_valid_untyped_inv' sts_valid_arch_inv')
-         apply (wp | simp)+
-     defer
+  "setThreadState st t \<lbrace>valid_invocation' i\<rbrace>"
+  apply (case_tac i; simp)
+             apply (wpsimp wp: sts_valid_untyped_inv')
+            apply (wpsimp+)[4]
```
Comment (corlewis) [inline proof/refine/ARM/Syscall_R.thy:558]: It's not necessary, but it would be nice if we could work out a way to automate lines like this in this proof so that they stopped in the right spot. Failing that, would you be able to add comments indicating what the proof state should look like after each one?

This sort of already happens due to the structure of the proof with the case_tacs, but making it really clear would be nice.

Comment (corlewis) [reply proof/refine/ARM/Syscall_R.thy:558]: Also, I really like the new structure that you've given this proof! It might have ended up with more lines but I think it will be much more maintainable.

File: proof/refine/ARM/Syscall_R.thy [hunk 10]
```diff
@@ -920,22 +928,39 @@ lemma threadSet_not_curthread_ct_domain:
   apply clarsimp
   done
 
+lemma tcbSchedDequeue_not_in_queue:
+  "\<lbrace>valid_queues\<rbrace>
+   tcbSchedDequeue t
+   \<lbrace>\<lambda>rv s. t \<notin> set (ksReadyQueues s p)\<rbrace>"
```
Comment (corlewis) [inline proof/refine/ARM/Syscall_R.thy:934]: Nice! Could you please replace `tcbSchedDequeue_nonq` with this one?

File: proof/refine/ARM/Syscall_R.thy [hunk 11]
```diff
@@ -1156,98 +1182,121 @@ crunch valid_duplicates'[wp]: rescheduleRequired "\<lambda>s. vs_valid_duplicate
...
+  and valid_objs[wp]: valid_objs
+  (simp: crunch_simps wp: crunch_wps)
+
+crunches replyFromKernel
+  for valid_objs'[wp]: valid_objs'
+  and valid_release_queue[wp]: valid_release_queue
+  and valid_release_queue'[wp]: valid_release_queue'
+  (simp: crunch_simps wp: crunch_wps)
+
+(* Note: the more elaborate preconditions on the abstract side come mostly from pinv_corres *)
```
Comment (corlewis) [inline proof/refine/ARM/Syscall_R.thy:1197]: By more elaborate do you mean in comparison to the previous preconditions? If so I would rewrite it to something like
```
Note: the preconditions on the abstract side are based on those of pinv_corres
```
We should be careful with comments referring to previous (and even sometimes existing) states of the repository, since they are very likely to confuse people coming across them in the future.

Separately, what are you trying to convey to future maintainers who come across this comment, and can you make it more explicit? My guess is something along the lines of 'if this proof breaks, check if any new preconditions have been added to `pinv_corres`'.

File: proof/refine/ARM/Syscall_R.thy [hunk 12]
```diff
@@ -1314,14 +1363,33 @@ lemma hinv_invs'[wp]:
                         dest: st_tcb_at_idle_thread')+
   done
 
+(* NOTE: This is a good candidate for corressimp at some point. For now there are some missing
+         lemmas regarding corresK and liftM. *)
```
Comment (corlewis) [inline proof/refine/ARM/Syscall_R.thy:1367]: This is a really good comment! It explicitly tells future us what we need to do here, and it doesn't require any implicit information to be understood.

**Review by corlewis — APPROVED** [review]
Great work!

File: proof/refine/ARM/KHeap_R.thy (hunk 7 above)
Comment (mktnk3) [reply proof/refine/ARM/KHeap_R.thy]: Hmm. I just saw what you actually replaced this with. Do you prefer `the` to `opt_map` for a particular reason? I would think that using `opt_map` goes better with the general projections direction. Not sure if we really want to use `the` here.

Comment (mktnk3) [reply proof/refine/ARM/KHeap_R.thy]: Eventually, it would be nice to get rid of `itcb` altogether and replace it with projections.

Comment (MitchellBuckley) [reply proof/refine/ARM/KHeap_R.thy]: The opt-map version wasn't quite working for me in the case where p does not return an option type. This is relevant for the case where p is `tcbState` or similar. I would be very happy with an opt_map version that covers that situation, if possible. Do you think that is possible?

File: proof/refine/ARM/Syscall_R.thy (hunk 11 above)
Comment (MitchellBuckley) [reply proof/refine/ARM/Syscall_R.thy:1197]: Ah, by "more elaborate" I meant "not just `invs` or `valid_sched`". I'll make it clearer.

File: proof/refine/ARM/KHeap_R.thy (hunk 7 above)
Comment (MitchellBuckley) [reply proof/refine/ARM/KHeap_R.thy]: Is there a way to get the opt-map version working in that case?

Comment (mktnk3) [reply proof/refine/ARM/KHeap_R.thy]: Ah, yes, of course, that won’t work. Sorry, a bit of overboard. Still, we do have a bit of duplications now, like `itcbSchedContext` and ‘tcbSCs_of’. Maybe we could remove `obj_ref` fields of tcb from itcb one day.

File: proof/refine/ARM/Syscall_R.thy (hunk 10 above)
Comment (MitchellBuckley) [reply proof/refine/ARM/Syscall_R.thy:934]: Ah, I thought such a lemma already existed!!

File: proof/refine/ARM/Syscall_R.thy (hunk 9 above)
Comment (MitchellBuckley) [reply proof/refine/ARM/Syscall_R.thy:558]: Thanks! That's what I hope. I think that sometime more lines means that the exact point of failure is easier to find.

**Comment by mktnk3** [comment]
Looks like Refine failed on the PR again. The log shows a failure in Syscall_R. Can you please rebuild and test once again to see if anything is wrong?

**Comment by MitchellBuckley** [comment]
> Looks like Refine failed on the PR again. The log shows a failure in Syscall_R. Can you please rebuild and test once again to see if anything is wrong?

I did a run_tests last night which passed. I'll try and do some kind of hard reset (delete images?) and try again.

File: proof/refine/Move_R.thy [hunk 13]
```diff
@@ -457,4 +457,16 @@ lemma bind_dummy_ret_val:
    od = do a; b od"
   by simp
 
+(* FIXME RT: move to the location of lookup_cap_and_slot_valid_fault2
+        And: Should this replace the existing lookup_cap_and_slot_valid_fault2 ? *)
```
[the remark this answers is not in the document]
Comment (MitchellBuckley) [reply proof/refine/Move_R.thy]: Do you mind if I just leave a comment to that effect?

File: proof/refine/ARM/Finalise_R.thy [hunk 14]
```diff
@@ -2705,7 +2705,7 @@ lemma schedContextUnbindTCB_invs'[wp]:
   unfolding schedContextUnbindTCB_def
   apply (rule schedContextUnbindTCB_invs'_helper[simplified] hoare_seq_ext | clarsimp)+
         apply (wp tcbReleaseRemove_invs' tcbReleaseRemove_not_queued
-                  tcbSchedDequeue_nonq tcbSchedDequeue_invs' hoare_vcg_all_lift)+
+                  tcbSchedDequeue_nonq tcbSchedDequeue_invs' hoare_vcg_all_lift | simp)+
```
Comment (corlewis) [inline proof/refine/ARM/Finalise_R.thy:2708]: Out of curiosity, any idea what goes wrong if this is `wpsimp`?

File: proof/refine/Move_R.thy (hunk 13 above)
[the remark this answers is not in the document]
Comment (corlewis) [reply proof/refine/Move_R.thy]: 👍

File: proof/refine/ARM/Finalise_R.thy (hunk 14 above)
Comment (MitchellBuckley) [reply proof/refine/ARM/Finalise_R.thy:3027]: Probably nothing, will have a look and update it if it works. (I'm just in a habit of making minimal changes because I find it hard to draw the line between removing sorries and doing cleanup. In this case, it's a very small improvement to make and so I should do it).
